US04117134
4,5-Dihydro-4,5-dioxo-1H-1-benzopyrano[2,3-b]pyridine-3-carboxylic acid.
A suspension of ethyl 4,5-dihydro-4,5-dioxo-1H-1-benzopyrano[2,3-b]-pyridine-3-carboxylate (3.0 g, 0.011 mole) in 5N hydrochloric acid (100 ml) is refluxed under nitrogen for 16 hrs., cooled, filtered, washed with acetone and sucked dry. Recrystallization from DMF gives white crystals (2.51 g, 93%), mp 335°-340° C.

reactant | ethyl 4,5-dihydro-4,5-dioxo-1H-1-benzopyrano[2,3-b]-pyridine-3-carboxylate | 0.011 mole, 3.0 g | O=C1C2=C(NC=C1C(=O)OCC)OC1=C(C2=O)C=CC=C1 | C15H11NO5
solvent | hydrochloric acid | 5N, 100 ml | Cl | ClH
product | 4,5-Dihydro-4,5-dioxo-1H-1-benzopyrano[2,3-b]pyridine-3-carboxylic acid | 2.51 g, 93% | O=C1C2=C(NC=C1C(=O)O)OC1=C(C2=O)C=CC=C1 | C13H7NO5
